US04058559
Step (A) 4(4-Fluorobenzoyl)-2,3-dichloroanisole
A mixture of 2,3-dichloroanisole (35.4 g.; 0.20 mole), 4-fluorobenzoyl chloride (34.8 g.; 0.22 mole) and methylene chloride (300 ml.) at 5° C. was stirred vigorously and treated with finely powdered aluminum chloride (28.0 g.; 0.21 mole). The reaction mixture was slowly heated and refluxed for two hours. The reaction mixture was cooled to room temperature and decomposed with ice and hydrochloric acid (50 ml.). The aqueous solution was extracted twice with methylene chloride. The combined methylene chloride solution was washed with aqueous sodium bicarbonate solution and finally with water. The organic layer was dried (MgSO4) and filtered. The solvent was removed in vacuo, and the residue on triturating with pet. ether gave the product 32 g. (50%); m.p. 138°-140°. This product was used for Step B without further purification.

reactant | 2,3-dichloroanisole | 0.20 mole, 35.4 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | 4-fluorobenzoyl chloride | 0.22 mole, 34.8 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | aluminum chloride | 0.21 mole, 28.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4(4-Fluorobenzoyl)-2,3-dichloroanisole | 32 g | FC1=CC=C(C(=O)C2=C(C(=C(C=C2)OC)Cl)Cl)C=C1 | C14H9Cl2FO2
